US09029544B2
(3′R,6′R,9′S)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′,9′-diol
13 mg (3′R,6′R,9′S)-9′-hydroxy-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′-yl acetate are dissolved in 1 ml methanol and treated with 14 mg potassium carbonate. Three drops water are added and the mixture is stirred for 3 hours at room temperature. Then the solvent is evaporated in vacuo and the residue is partitioned between water and dichloromethane. The organic phase is dried with sodium sulphate and the solvent is evaporated in vacuo. The residue is chromatographed on silica gel (hexane/ethylacetate 4:1).

reactant | (3′R,6′R,9′S)-9′-hydroxy-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′-yl acetate | 13 mg | C(C)(=O)O[C@@H]1C(C[C@@H](C=2C3=C(C(=NC12)C(C)C)[C@H](OC31CCCC1)C1=CC=C(C=C1)C(F)(F)F)O)(C)C | C29H34F3NO4
reactant | potassium carbonate | 14 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1 ml | CO | CH4O
catalyst | water | Three drops | O | H2O
product | (3′R,6′R,9′S)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′,9′-diol | C(C)(C)C1=NC=2[C@@H](C(C[C@@H](C2C2=C1[C@H](OC21CCCC1)C1=CC=C(C=C1)C(F)(F)F)O)(C)C)O | C27H32F3NO3
